US07550484B2
A solution of 1-[2,7-bis-(3-methyl-pyridin-2-yl)-2,3,6,7-tetrahydro-azepin-1-yl]-2,2,2-trifluoroethanone (73 mg, 0.194 mmol) was dissolved in MeOH (8 mL) and 6N HCl (2 mL) and was heated to 65° C. for 5 hours. The mixture turned black in color. The solvent was removed in vacuo and the residue was basified with 10 N NaOH solution. The mixture was extracted with CH2Cl2 (3×50 mL). The organic extracts were dried (MgSO4), filtered and concentrated. The residue was purified by radial chromatography (1 mm plate, 1:5 EtOAc:hexanes then EtOAc then 10:1 EtOAc/MeOH) to provide 30.2 mg of 2,7-bis-(3-methyl-pyridin-2-yl)-2,3,6,7-tetrahydro-1H-azepine. 1H NMR(CDCl3) δ 2.29-2.36 (m 3H), 2.41 (6H, s), 3.04 (dd, 2H, J=16.2, 10.2 Hz), 5.15 (d, 2H, J=15.6 Hz), 5.81-5.90 (m, 2H), 7.04 (dd, 2H, J=7.5, 4.2 Hz), 7.43 (d, 2H, J=7.5 Hz), 8.35 (d, 2H, J=4.2 Hz).

reactant | 1-[2,7-bis-(3-methyl-pyridin-2-yl)-2,3,6,7-tetrahydro-azepin-1-yl]-2,2,2-trifluoroethanone | 0.194 mmol, 73 mg | CC=1C(=NC=CC1)C1N(C(CC=CC1)C1=NC=CC=C1C)C(C(F)(F)F)=O | C20H20F3N3O
reactant | HCl | 6N, 2 mL | Cl | ClH
solvent | MeOH | 8 mL | CO | CH4O
product | 2,7-bis-(3-methyl-pyridin-2-yl)-2,3,6,7-tetrahydro-1H-azepine | 30.2 mg | CC=1C(=NC=CC1)C1NC(CC=CC1)C1=NC=CC=C1C | C18H21N3
